US04487945
(±)-1-(1-hydroxy-1-methylethyl)-4-methyl-3-cyclohexen-1-ol
A mixture of 26.0 g of 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene and 250 ml of 1% sulfuric acid was stirred magnetically for 20 hours, then extracted with four 100 ml portions of methylene chloride. The combined methylene chloride extracts were washed, dried, concentrated and Claisen-distilled to give 22.4 g of the desired product, b.p. 78°-81° C. (0.15 mm).

reactant | 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene | 26.0 g | CC1(OC12CC=C(CC2)C)C | C10H16O
reactant | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
product | (±)-1-(1-hydroxy-1-methylethyl)-4-methyl-3-cyclohexen-1-ol | 22.4 g | OC(C)(C)C1(CC=C(CC1)C)O | C10H18O2
